.subckt vco_19_16 Vinvco osc
X7 Vp Vn 0 0 sky130_fd_pr__nfet_01v8 l={L} w={2*W}
X8 Vp Vp VDD VDD sky130_fd_pr__pfet_01v8 l={L} w={10*W}
R1 Vn Vinvco 1
XU22 osc_fb Osc inv_20_10
XX3 n1 osc_fb Vp Vn cs_inv
XX16 N005 n1 Vp Vn cs_inv
XX17 N004 N005 Vp Vn cs_inv
XX18 N003 N004 Vp Vn cs_inv
XX19 N002 N003 Vp Vn cs_inv
XX20 N001 N002 Vp Vn cs_inv
XX21 osc_fb N001 Vp Vn cs_inv
V1 VDD 0 1.8
.ends vco_19_16

