.subckt inv_20_10 In Out
X1 Out In 0 0 sky130_fd_pr__nfet_01v8 l={L} w={2*W}
X2 Out In N001 N001 sky130_fd_pr__pfet_01v8 l={L} w={4*W}
V1 N001 0 1.8
.ends inv_20_10

