****************************
*2 input nand
***************************
.subckt nand1 in1 in2 out VDD GND
X1 out in1 N001 N001 sky130_fd_pr__nfet_01v8 l={L} w={W}
X2 VDD in2 out VDD sky130_fd_pr__pfet_01v8 l={L} w={2*W}
X3 VDD in1 out VDD sky130_fd_pr__pfet_01v8 l={L} w={2*W}
X4 N001 in2 GND GND sky130_fd_pr__nfet_01v8 l={L} w={W}
.ends nand1
